US05017212
3,6-Dimethylimidazo[2,1-b]thiazole-5-sulfonamide
To a suspension of 2.8 g of 3,6-dimethylimidazo [2,1-b]thiazole-5-sulfonic acid in 3.4 ml of phophorus oxychloride, 1.8 g of tri-n-propylamine is added under cooling and stirred for 30 minutes at 60° C. The reaction solution after cooling is poured into ice water and extracted with dichloromethane. The dichloromethane layer is collected, dried and then distilled to remove dichloromethane. The residue is dissolved in 35 ml of acetonitrile, to which 3.8 ml of aqueous ammonia is added under cooling and stirred for 30 minutes at room temperature. The acetonitrile is distilled off under reduced pressure, and to the residue is added water. The precipitated crystalline solid is collected by filtration and washed with tetrachloromethane to give 1.5 g of the title compound as colorless crystals. mp. 177°-178° C.

reactant | 3,6-dimethylimidazo [2,1-b]thiazole-5-sulfonic acid | 2.8 g | CC=1N2C(SC1)=NC(=C2S(=O)(=O)O)C | C7H8N2O3S2
reactant | tri-n-propylamine | 1.8 g | C(CC)N(CCC)CCC | C9H21N
solvent | oxychloride | 3.4 ml | O(Cl)Cl | Cl2O
product | 3,6-Dimethylimidazo[2,1-b]thiazole-5-sulfonamide | 1.5 g | CC=1N2C(SC1)=NC(=C2S(=O)(=O)N)C | C7H9N3O2S2
